US07414076B2
Preparation of 3-(2-methyl-1-butyl)amino-1-propanesulfonic acid (Compound DS)
To a solution of (+/−)-2-methylbutylamine (10 g, 115 mmol) in tetrahydrofuran (80 mL) was slowly added a solution of 1,3-propane sultone (13.5 g, 109 mmol) in THF (20 mL). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid material was collected by filtration, washed with acetone (2×30 mL). The solid was suspended 95% Acetone/EtOH (200 mL). The suspension was stirred at room temperature for 5 minutes. The solid product was collected by filtration, and dried in a vacuum oven (50° C.), to afford compound DS (17.6 g, 78%). 1H NMR (D2O, 500 MHz) δ ppm 3.07 (t, 2H, J=7.8 Hz), 2.93 (m, 3H), 2.76 (m, 1H), 2.01 (m, 2H), 1.67 (m, 1H), 1.30 (m, 1H), 1.09 (m, 1H), 0.81 (d, 3H, J=6.8 Hz), 0.77 (t, 3H, J=6.8 Hz). 13C NMR (D2O, 125 MHz) δ ppm 53.48, 48.13, 46.92, 31.96, 26.38, 21.29, 16.11, 10.19. ES-MS 210 (M+1).

reactant | (+/−)-2-methylbutylamine | 115 mmol, 10 g | CC(CN)CC | C5H13N
reactant | 1,3-propane sultone | 109 mmol, 13.5 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2-methyl-1-butyl)amino-1-propanesulfonic acid | CC(CNCCCS(=O)(=O)O)CC | C8H19NO3S
